US04014677
A solution of sodium methylate in methanol (prepared from 1.2 g (50 m-moles) of sodium in 50 ml of methanol) is added to 14.4 g (50 m-moles) of 2-chloro-4-(3-pentylamino)-5-nitro-6-isopropyl-pyrimidine in 100 ml of methanol and the mixture is stirred for 1 hour. The solvent is distilled off and the residue is suspended in water and extracted with ether. The ethereal extracts are dried over MgSO4 and evaporated to yield 14 g of 2-methoxy-4-(3-pentylamino)-5-nitro-6-isopropyl-pyrimidine as an oil (nD20 : 1.5412).

reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | 2-chloro-4-(3-pentylamino)-5-nitro-6-isopropyl-pyrimidine | 14.4 g | ClC1=NC(=C(C(=N1)NC(CC)CC)[N+](=O)[O-])C(C)C | C12H19ClN4O2
solvent | methanol | 50 ml, 1.2 g | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 2-methoxy-4-(3-pentylamino)-5-nitro-6-isopropyl-pyrimidine | 14 g | COC1=NC(=C(C(=N1)NC(CC)CC)[N+](=O)[O-])C(C)C | C13H22N4O3
